* D:\home\brosnan\books\circuits\Circuits-LTSpice\Controller-control-systems\Buck-converter-closed-loop-control.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 20
L1 Vout N003 47µ
D1 0 N003 1N5819
C1 Vout 0 100µ
R1 Vout 0 R=IF(time < 5m, 1, 2)
M1 N001 N002 N003 N003 BSB012N03LX3
B§Vb1 error 0 V= {y_ref}-V(Vout)
B§PI_regulator PI_out 0 V= 5*V(error) + 500*idt(V(error))
B§PI_regulator1 PI_sat 0 V= IF(V(PI_out) > 0, min(V(PI_out), 1), 0)
B1 N002 N003 V=IF(time - floor(time/Ts)*Ts < V(PI_sat)*Ts, 20, 0)
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m startup
.param y_ref=10
.param Ts 10u
.backanno
.end
